data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21](C)([CH2:22][Br:23])O.[OH-:10]>>[H:20][OH:10].C[C:21](=[CH2:22])O.[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)C(C)C)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)[C:24]1=[CH:23][CH:22]=[C:21](C=C1)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
CCC1=NC([C:20]([O-:10])([O:21]1)OC(=O)CC)(CC2CCCCC2)C(=O)CC.C1=CC=[NH+]C=C1>>CCC(=NC([C:20](=[O:10])OC(=O)CC)(CC1CCCCC1)C(=O)CC)[O-:21].C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][O:21][P+:22](C)(C)C.[Br-:10]>>[H:20][Br:10].C[P:22](=[O:21])(C)C 10=20;20,21=21,22
[H:20][CH:21]1CC2C(CC3C(O2)(CC(C(O3)CCCC)CCC)C)OC([C:22]1=[O+:23][Li-][N:10]([Si](C)(C)C)[Si](C)(C)C)CO[Si](C)(C)C(C)(C)C>>[H:20][N+:10]([Li-][O:23][C:22]1=[CH:21]CC2C(CC3C(O2)(CC(C(O3)CCCC)CCC)C)OC1CO[Si](C)(C)C(C)(C)C)([Si](C)(C)C)[Si](C)(C)C 10=20;22,23=23;20,21=21,22
C[Si:20](C)(C)O.CS(=O)(=O)[O-:10]>>C[Si-:20](C)(C)(O)[O:10]S(=O)(=O)C 10=20,
CC=C[CH:20]1C([Br+:21]1)C.[OH2:10]>>CC=C[CH:20](C(C)[Br:21])[OH2+:10] 10=20;20,21=21
C[C:20](C)([O:10]C)[I:21]>>C[C:20](=[O+:10]C)C.[I-:21] 10=20;20,21=21
[H:20][OH2+:21].CCN[C:11](=[CH:10]CSCC)[O-:12]>>[H:20][CH:10](CSCC)[C:11](=[O:12])NCC.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2C(F)(F)F)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=CC=C2C(F)(F)F 10=20;20,21=21,22
[H:10][C:11]1(CCC2(C3CCC4(C(CCC4C3CC=C2C1)CC(C)C)C)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)O.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC2(C3CCC4(C(CCC4C3CC=C2C1)CC(C)C)C)C.CC(C)O.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][NH3+:21].C1=CC=C(C=C1)C[O-:10]>>[H:20][O:10]CC1=CC=CC=C1.[NH3:21] 10=20;20,21=21
C1=CC=C(C=C1)[CH+:20][O:10][Sn-](Cl)(Cl)(Cl)Cl>>C1=CC=C(C=C1)[CH:20]=[O+:10][Sn-](Cl)(Cl)(Cl)Cl 10=20,
CC(C)C1=C(C(=CC=C1)C(C)C)N2C=C[N+](=[C:21]2[C:20]3(CC(C(O3)(C4=CC=CC=C4)C(F)(F)F)C5=CC=CC=C5)[O-:10])C6=C(C=CC=C6C(C)C)C(C)C.CC(C)(C)O>>CC(C)C1=C(C(=CC=C1)C(C)C)N2C=C[N+](=[C-:21]2)C3=C(C=CC=C3C(C)C)C(C)C.C1C(C(O[C:20]1=[O:10])(C2=CC=CC=C2)C(F)(F)F)C3=CC=CC=C3.CC(C)(C)O 10=20;20,21=21
CC1CCCC[C+:20]1C.[Br-:10]>>CC1CCCC[C:20]1(C)[Br:10] 10=20,
[H:20][NH+:21]1CC2CC(C1)C=C(C2)C3=CC=CN=C3.C1C2CC(=CC1CN(C2)C[OH:10])C3=CC=CN=C3.C(=O)[O-]>>[H:20][OH+:10]CN1CC2CC(C1)C=C(C2)C3=CC=CN=C3.C1C2CC(=CC1C[NH:21]C2)C3=CC=CN=C3.C(=O)[O-] 10=20;20,21=21
C[NH+:21]=[C:20](O)OC.C[OH:10]>>C[NH:21][C:20](O)([OH+:10]C)OC 10=20;20,21=21
[H:10][BH3-:11].C[C:20](=[O:21])CCC(=O)O>>[H:10][C:20](C)(CCC(=O)O)[O-:21].[BH3:11] 10,11=10,20;20,21=21
CC1CC2(CCC(C1O)[C:20]2=[O:21])C(=O)OC.C[O-:10]>>CC1CC2(CCC(C1O)[C:20]2([O-:21])[O:10]C)C(=O)OC 10=20;20,21=21
CC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)C3CCCCC3)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)C3CCCCC3)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
C[Si-:10](C)(C)([Cl:11])Br>>C[Si:10](C)(C)Br.[Cl-:11] 10,11=11
CC(C1=CC=CC=C1)N[C:20](CC2=CC(=C(C(=C2)OC)OC)OCC3=CC=CC=C3)([O-:10])[Cl:21].O.[OH2+][Na]>>CC(C1=CC=CC=C1)N[C:20](=[O:10])CC2=CC(=C(C(=C2)OC)OC)OCC3=CC=CC=C3.[Cl-:21].O.[OH2+][Na] 10=20;20,21=21
CCC[NH:10]CCC.COC1=CC=C(C=C1)[CH2:20][Br:21]>>CCC[NH+:10](CCC)[CH2:20]C1=CC=C(C=C1)OC.[Br-:21] 10=20;20,21=21
CCOC(=O)[CH:20](C(C1=CC=CC=C1)[O-:10])[Cl:21].CC(C)(C)O>>CCOC(=O)[CH:20]1C([O:10]1)C2=CC=CC=C2.[Cl-:21].CC(C)(C)O 10=20;20,21=21
CC1=C[CH:11]=[CH:10]O1.[Br:20][Br:21]>>CC1=C[CH+:11][CH:10](O1)[Br:20].[Br-:21] 10,11=10,20;20,21=21
CC(C)(C[OH:10])C[O+:21]=[CH:20]C1=CC(=C(C=C1)OC)Br.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1.O>>CC1(C[OH+:10][CH:20]([O:21]C1)C2=CC(=C(C=C2)OC)Br)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1.O 10=20;20,21=21
C(C[O-:10])CO[C:20](=[O:21])N>>C1CO[C:20]([O:10]C1)(N)[O-:21] 10=20;20,21=21
[H:20][CH:21](C)[C:22](=[NH+:23]C(CC1=CC=CC=C1)C(=O)O)CCC2(C(=O)CCCC2=O)C.C1=CC=C(C=C1)CC(C(=O)[O-:10])[NH3+].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.O>>[H:20][O:10]C(=O)C(CC1=CC=CC=C1)[NH3+].C[CH:21]=[C:22](CCC1(C(=O)CCCC1=O)C)[NH:23]C(CC2=CC=CC=C2)C(=O)O.CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.O 10=20;22,23=23;20,21=21,22
[Li+:20].CCCC=[O:10].[BH-](CC)(CC)CC.[AlH4-]>>[Li:20][O+:10]=CCCC.[BH-](CC)(CC)CC.[AlH4-] 10=20,
CC1CC2(C3CC4=C5C2(CC[N+]3(C)[C:20](=[N-:10])[Br:21])C(C1=O)OC5=C(C=C4)OC(=O)C)OC(=O)C>>CC1CC2(C3CC4=C5C2(CC[N+]3(C)[C:20]#[N:10])C(C1=O)OC5=C(C=C4)OC(=O)C)OC(=O)C.[Br-:21] 10=20;20,21=21
CC(C)(C(=O)C1CCCC2=C([C:20]1=[O:21])C=CC=C2)[O-:10].CCCC(C(C)CC)O.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.O>>CC1(C(=O)C2CCCC3=C([C:20]2([O:10]1)[O-:21])C=CC=C3)C.CCCC(C(C)CC)O.C1=CC=C(C=C1)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3.O 10=20;20,21=21
[H:20][O+:21](CC)C(=CC)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(=CC)C 10=20;20,21=21
C=C1CCCCC12[CH2:10][Mg:11]OC3C2CCCC3.[C:20](=O)=[O:21]>>C=C1CCCCC1([CH2:10][C:20](=O)[O-:21])C2CCCCC2O[Mg+:11] 10,11=10,20;20,21=21
CC(C)C1=C[CH:10]=[C:11](C=C1)C(C)C.[N+:20](=O)=[O:21]>>CC(C)C1=C[CH:10]([C+:11](C=C1)C(C)C)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
